US08686022B2
1-methyl-7-[4-(1-methyl-piperidine-4-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide
61 mg 1-methyl-piperidine-4-carboxylic acid are dissolved in 1 ml N,N-dimethylformamide and combined with 137 mg O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium-tetrafluoroborate (TBTU) and 138 μl N,N-diisopropyl-ethylamine (DIEA). The mixture is stirred for 20 minutes, then 150 mg 1-methyl-7-piperazin-1-ylmethyl-1H-indole-2-carboxylic acid(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide are added and the mixture is stirred for 12 hours. Then it is divided between water and ethyl acetate and the aqueous phase is extracted twice with ethyl acetate. The combined organic phases are washed with saturated aqueous sodium chloride solution and dried on magnesium sulphate. Then the solvents are eliminated in vacuo and the residue is chromatographed on silica gel with dichloromethane/(methanol/ammonia 9:1) 99:1 to 90:10.

reactant | 1-methyl-piperidine-4-carboxylic acid | 61 mg | CN1CCC(CC1)C(=O)O | C7H13NO2
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 137 mg | N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C.F[B-](F)(F)F
reactant | N,N-diisopropyl-ethylamine | 138 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-methyl-7-piperazin-1-ylmethyl-1H-indole-2-carboxylic acid(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide | 150 mg | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCNCC1)C)OC)NS(=O)(=O)C | C27H37N5O4S
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-methyl-7-[4-(1-methyl-piperidine-4-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)C1CCN(CC1)C)C)OC)NS(=O)(=O)C | C34H48N6O5S
